US09085555B2
B. (2,3-Difluoro-5-methoxy-phenyl)-methanol
To a solution of 2,3-difluoro-5-methoxy-benzoic acid methyl ester (925 mg, 4.58 mmol) in THF (25 mL), cooled to 0° C., was added a solution of LiBH4 (199 mg, 9.15 mmol) in THF (5 mL). The reaction mixture was stirred at RT for overnight. An additional aliquot of LiBH4 (4 equiv) was added and stirring was continued at RT for 6 h, and subsequently at 60° C. overnight. The mixture was diluted with EtOAc, the organics were washed with 1N aqueous NaOH solution (50 mL), dried (Phase separator) and evaporated in vacuo to afford the title compound as a white solid. TLC Rf (c-hexane/EtOAc 1:1)=0.57; MS (LC/MS): 198.0 [M+Na]+; tR (HPLC conditions c): 3.74 min.

reactant | 2,3-difluoro-5-methoxy-benzoic acid methyl ester | 4.58 mmol, 925 mg | COC(C1=C(C(=CC(=C1)OC)F)F)=O | C9H8F2O3
reactant | LiBH4 | 9.15 mmol, 199 mg | [Li+].[BH4-]
reactant | LiBH4 | 4 equiv | [Li+].[BH4-]
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (2,3-Difluoro-5-methoxy-phenyl)-methanol | FC1=C(C=C(C=C1F)OC)CO | C8H8F2O2
